US04002179
The method of Grignard and Chambret, Compt. rend. 182, 299(1926) was used to prepare 2-benzylpent-4-en-2-ol. The alcohol was converted to the 1-menthyl carbonate by a procedure like that of Example 4. Distillation of the extracted product through an 8-inch Vigreux column gave fractions boiling 25°-110°/0.04-0.6 mm, all having strong OH absorption in the infra-red. The residue was distilled through a short path and the fraction boiling 165°-6°/0.6-0.7 mm showed the following IR absorptions: no OH, strong carbonate (1750 and 1255 cm-1), vinyl (1655, 978, 913 cm-1), monosubstituted aromatic (750 shoulder, 697 cm-1). NMR analysis indicated 80% of the expected mixed ester, a yield of 18.0% from the alcohol. This product had very little odor, but on heating produced a menthol odor.

reactant | 2-benzylpent-4-en-2-ol | C(C1=CC=CC=C1)C(C)(CC=C)O | C12H16O
reactant | 1-menthyl carbonate | C(OC1(CCC(CC1)C(C)C)C)([O-])=O
product | menthol | yield of 18.0% | C1(CC(C(CC1)C(C)C)O)C | C10H20O
